US08461179B1
A solution of phenyl (5-(7-(2-cyanoacetamido)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)carbamate (400 mg, 0.80 mmol) and aniline (158 mg, 1.6 mmol) in DMSO (3 mL) was heated at 60° C. overnight and purified via reverse-phase chromatography (MeCN/H2O with 0.1% TFA) to afford 2-cyano-N-(3-(2,4-difluoro-5-(3-phenylureido)phenyl)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)acetamide (50 mg, 13% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.23 (s, 1H), 8.92 (s, 1H), 8.78 (s, 1H), 8.20-8.16 (m, 2H), 8.11 (s, 1H),7.49-7.39 (m, 4H), 7.29-7.25 (m, 2H), 6.96 (t, J=7.2 Hz, 1H) 4.26-4.21 (q, J=6.8 Hz, 2H), 4.09 (s, 2H),1.30-1.26 (t, J=6.8 Hz, 3H); MS (ESI) m/z: 503.2 [M+H]+.

reactant | phenyl (5-(7-(2-cyanoacetamido)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)carbamate | 0.80 mmol, 400 mg | C(#N)CC(=O)NC1=NC=C2C=C(C(N(C2=C1)CC)=O)C=1C(=CC(=C(C1)NC(OC1=CC=CC=C1)=O)F)F | C26H19F2N5O4
reactant | aniline | 1.6 mmol, 158 mg | NC1=CC=CC=C1 | C6H7N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 2-cyano-N-(3-(2,4-difluoro-5-(3-phenylureido)phenyl)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)acetamide | 50 mg, 13% yield | C(#N)CC(=O)NC1=NC=C2C=C(C(N(C2=C1)CC)=O)C1=C(C=C(C(=C1)NC(=O)NC1=CC=CC=C1)F)F | C26H20F2N6O3
